US04988698
To a mixture of methyl 2-amino-4-methylthiazole-5-carboxylate (3.72 g) and pyridine (25 ml) was added mesyl chloride (1.6 ml) over the period of 5 minutes under cooling with stirring, and the mixture was stirred for 1 hour at ambient temperature and for 3 hours for 40° C. After the reaction mixture was concentrated, ethyl acetate (50 ml) and tetrahydrofuran (20 ml) were added to the residue and the mixture was adjusted to pH 3 with diluted hydrochloric acid. The separated organic layer was washed with brine, dried over magnesium sulfate and concentrated. The residue was pulverised with diethyl ether to give methyl 2-mesylamino-4-methylthiazole-5-carboxylate (3.5 g).

reactant | methyl 2-amino-4-methylthiazole-5-carboxylate | 3.72 g | NC=1SC(=C(N1)C)C(=O)OC | C6H8N2O2S
reactant | mesyl chloride | 1.6 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-mesylamino-4-methylthiazole-5-carboxylate | 3.5 g | S(=O)(=O)(C)NC=1SC(=C(N1)C)C(=O)OC | C7H10N2O4S2
